US05932745
2-Chloro-4-(1H-pyrazol-3-yl)-benzoic acid, methyl ester
To a suspension of 2-chloro-4-(3-dimethylamino-2-propen-1-on-1-yl)-benzoic acid, methyl ester (13.67 g) in ethanol (53 ml) was added hydrazine monohydrochloride (7.0 g). The mixture was heated in an oil bath at 75-80° C. for one hour. The solvent was removed in vacuo. The resulting residue was dissolved in ethyl acetate, washed with water and brine, dried over anhydrous sodium sulfate, and the solvent removed in vacuo to yield the title compound as a crude solid (12 g). A purified sample had a melting point of 130-131° C.

reactant | 2-chloro-4-(3-dimethylamino-2-propen-1-on-1-yl)-benzoic acid, methyl ester | 13.67 g | ClC1=C(C(=O)OC)C=CC(=C1)C(C=CN(C)C)=O | C13H14ClNO3
reactant | hydrazine monohydrochloride | 7.0 g | Cl.NN
solvent | ethanol | 53 ml | C(C)O | C2H6O
product | 2-Chloro-4-(1H-pyrazol-3-yl)-benzoic acid, methyl ester | ClC1=C(C(=O)OC)C=CC(=C1)C1=NNC=C1 | C11H9ClN2O2
